US07902252B2
To sodium hydride (60% dispersion in mineral oil) (0.46 g, 11.4 mmol, 1.1 equiv) in anhydrous DMF (10 mL) under a nitrogen atmosphere at 0° C. was added dropwise a solution ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (2.0 g, 10 mmol, 1 equiv) in anhydrous DMF (15 mL). After stirring for 30 min at 0° C., SEM-Cl (2.1 g, 12.4 mmol, 1.2 equiv) was then added dropwise over 5 min and the mixture warmed to rt overnight. The reaction was quenched by pouring the reaction contents into a beaker of ice water. It was extracted with EtOAc (4×50 mL) and the combined organic extracts were washed with brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by flash chromatography (0-30% EtOAc/heptane) to afford 2.9 g of ethyl 6-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (86% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 6.84 (s, 1H), 5.87 (s, 2H), 4.35 (q, J=7.13 Hz, 2H), 3.57 (dd, J=8.59, 7.71 Hz, 2H), 2.82-2.92 (m, 4H), 1.38 (t, J=7.14 Hz, 3H), 0.85-0.92 (m, 2H), −0.05 (s, 9H).

reactant | sodium hydride | 11.4 mmol, 0.46 g, 1.1 equiv | [H-].[Na+]
reactant | ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 10 mmol, 2.0 g, 1 equiv | O=C1CCC2=C1NC(=C2)C(=O)OCC | C10H11NO3
reactant | SEM-Cl | 12.4 mmol, 2.1 g, 1.2 equiv | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | ethyl 6-oxo-1-((2-(trimethylsilyl)ethoxy)methyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.9 g, 86% yield | O=C1CCC2=C1N(C(=C2)C(=O)OCC)COCC[Si](C)(C)C | C16H25NO4Si
